US06706725B1
g) 1-{5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)-phenoxymethyl]-3-thienyl}-1-propanone
In a manner similar to that of Example 9(b), by reaction of 28 g (52 mmol) of 1{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-thienyl}-1-propanol with 45 g (520 mmol) of manganese dioxide, the desired product is obtained in the form of an orange-coloured oil (m=26 g; Y=93%).

reactant | 1{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-thienyl}-1-propanol | 52 mmol, 28 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)C(CC)O)C=CC1CO[Si](C)(C)C(C)(C)C | C28H48O4SSi2
catalyst | manganese dioxide | 520 mmol, 45 g | [O-2].[O-2].[Mn+4]
product | 1-{5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)-phenoxymethyl]-3-thienyl}-1-propanone | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)C(CC)=O)C=CC1CO[Si](C)(C)C(C)(C)C | C28H46O4SSi2
